US08466181B2
(6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)pyridin-3-yl)(2-oxa-6-azaspiro[3.3]heptan-6-yl)methanone
As described for example 36b, 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (56 mg, 0.154 mmol) was converted, using 2-oxa-6-azonia-spiro[3.3]heptane oxalate salt instead of isopropylamine, to the title compound (29 mg, 42%) which was obtained as an off white solid after recrystallisation from ethyl acetate-hexane. MS: m/e=446.2 [M+H]+.

reactant | 6-(4-(1-(4-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.154 mmol, 56 mg | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | 2-oxa-6-azonia-spiro[3.3]heptane oxalate salt | C(C(=O)[O-])(=O)[O-].C1OCC12C[NH2+]C2.C2OCC21C[NH2+]C1
product | (6-(4-(1-(4-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)pyridin-3-yl)(2-oxa-6-azaspiro[3.3]heptan-6-yl)methanone | 29 mg, 42% | FC1=CC=C(C=C1)N1N=NC(=C1C=1N=CN(C1)C1=CC=C(C=N1)C(=O)N1CC2(COC2)C1)C | C23H20FN7O2
